US06194461B1
2) α-(2,4-difluorophenyl)-N-[dimethyl(benzyloxymethyl)methyl]nitrone
A suspension of 2,4-difluorobenzaldehyde (443.7 mg, 3.12 mmol), 2-methyl-2-nitro-1-benzyloxypropane (639.4 mg, 3.06 mmol) and zinc (326.4 mg, 4.99 mmol) in ethanol (6 ml) was cooled to 0° C. in ice-water bath. Acetic acid (0.57 ml, 9.9 mmol) was added dropwise to the mixture. The mixture was gradually warmed to room temperature and stirred for 7 hours. The mixture was filtered through Celite® bed and the filtrate was concentrated and purified by silica gel chromatography (hexane/ethyl acetate=10/1-4/1) to give the title compound (468.8 mg; 48%).

reactant | 2,4-difluorobenzaldehyde | 3.12 mmol, 443.7 mg | FC1=C(C=O)C=CC(=C1)F | C7H4F2O
reactant | 2-methyl-2-nitro-1-benzyloxypropane | 3.06 mmol, 639.4 mg | CC(COCC1=CC=CC=C1)(C)[N+](=O)[O-] | C11H15NO3
reactant | Acetic acid | 9.9 mmol, 0.57 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 6 ml | C(C)O | C2H6O
catalyst | zinc | 4.99 mmol, 326.4 mg | [Zn] | Zn
product | α-(2,4-difluorophenyl)-N-[dimethyl(benzyloxymethyl)methyl]nitrone | 468.8 mg, 48% | FC1=C(C=CC(=C1)F)C=[N+]([O-])C(COCC1=CC=CC=C1)(C)C | C18H19F2NO2
